US04555403
D: L-asparagine
According to a particularly advantageous further development of the invention the D-serine represented by X is replaced by D-arginine, D-methionine, D-lysine or D-phenylalanine, D-leucine, D-isoleucine, D-tryptophane or D-cystine.

reactant | D-serine | N[C@H](CO)C(=O)O | C3H7NO3
reactant | D-arginine | N[C@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | D-methionine | N[C@H](CCSC)C(=O)O | C5H11NO2S
reactant | D-lysine | N[C@H](CCCCN)C(=O)O | C6H14N2O2
reactant | D-phenylalanine | N[C@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | D-leucine | N[C@H](CC(C)C)C(=O)O | C6H13NO2
reactant | D-isoleucine | N[C@H]([C@H](C)CC)C(=O)O | C6H13NO2
reactant | D-tryptophane | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | D-cystine | C([C@H](C(=O)O)N)SSC[C@H](C(=O)O)N | C6H12N2O4S2
product | L-asparagine | N[C@@H](CC(N)=O)C(=O)O | C4H8N2O3
